US05536714
4-Hydroxybenzhydrylamine
A procedure similar to that described in Preparation 12 was repeated, but using 86 ml of a methanolic solution containing 4.28 g of 4-hydroxybenzophenone oxime, 17.03 g of ammonium acetate, 3.79 g of sodium cyanoborohydride, and 40.1 ml of a 17-19% by volume aqueous solution of titanium trichloride, and using a dilute aqueous solution of sodium hydrogencarbonate instead of the aqueous solution of sodium hydroxide, and using ethyl acetate as the extracting solvent. The residue obtained was subjected to silica gel column chromatography and eluted with a 80% by volume solution of ethyl acetate in hexane, with ethyl acetate itself, and with a 3% by volume solution of methanol in ethyl acetate, to give 2.74 g of the title compound as crystals, melting at 113° -115° C. (after recrystallization from methylene chloride).

reactant | 4-hydroxybenzophenone oxime | 4.28 g | OC1=CC=C(C(C2=CC=CC=C2)=NO)C=C1 | C13H11NO2
reactant | ammonium acetate | 17.03 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 3.79 g | C(#N)[BH3-].[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | titanium trichloride | [Cl-].[Cl-].[Cl-].[Ti+3]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-Hydroxybenzhydrylamine | OC1=CC=C(C(C2=CC=CC=C2)N)C=C1 | C13H13NO
